US06045720
A Grignard reagent which was prepared from 6.4 g (0.27 mol) of magnesium turnings and 48.7 g (0.25 mol) of 5-bromopentyl ethyl ether was added over 45 minutes to a solution of 35.5 g (0.25 mol) of ethyl trifluoroacetate in 300 ml of diethyl ether at -60° C. After stirring for further 2 hours, the temperature was increased to -20° C. and a saturated aqueous ammonium chloride solution was added. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was distilled under the reduced pressure, to obtain 31 g of 7-ethoxy-1,1,1-trifluoro-2-heptanone. Boiling point; 90-92° C. (47 mmHg).

reactant | magnesium | 0.27 mol, 6.4 g | [Mg] | Mg
reactant | 5-bromopentyl ethyl ether | 0.25 mol, 48.7 g | C(C)OCCCCCBr | C7H15BrO
reactant | ethyl trifluoroacetate | 0.25 mol, 35.5 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 7-ethoxy-1,1,1-trifluoro-2-heptanone | 31 g | C(C)OCCCCCC(C(F)(F)F)=O | C9H15F3O2
